US05236950
A solution of 5.0 g of 3,7,11,15-tetramethyl-2-hexadecenoic acid and 4.3 g of 4-(N,N-dimethylamino)pyridine dissolved in 50 ml of methylene chloride was cooled to -50° C. Thereinto was dropped 1.8 g of methanesulfonyl chloride. After the completion of the dropping, the resulting mixture was stirred at the same temperature for 1 hour. Thereinto was dropped 3.2 g of 2,2-dimethyl-1,3-dioxolane-4-methanol at the same temperature. After the completion of the dropping, the temperature of the reaction mixture was elevated to room temperature in 6 hours. After the completion of the reaction, the reaction mixture was washed with 1N hydrochloric acid, 3% aqueous sodium hydrogencarbonate solution and water in this order, and the solvent was removed by distillation under reduced pressure. The residue obtained was dissolved in 50 ml of acetonitrile. To the resulting solution was added 5 ml of 2N hydrochloric acid. The resulting mixture was stirred for 5 hours at room temperature. The reaction mixture was neutralized with triethylamine, and then concentrated under reduced pressure. The residue obtained was dissolved in 20 ml of ethyl acetate. The resulting solution was washed with 1N hydrochloric acid, 3% asqueous sodium hydrogencarbonate solution and water in this order and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The redsidue obtianed was purified by a column chromatography (eluant: benzene) to obtain 6.0 g (yield: 96.7%) of oily glyceryl 3,7,11,15-tetramethyl-2-hexadecenoate.

reactant | 3,7,11,15-tetramethyl-2-hexadecenoic acid | 5.0 g | CC(=CC(=O)O)CCCC(CCCC(CCCC(C)C)C)C | C20H38O2
reactant | methanesulfonyl chloride | 1.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 3.2 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
catalyst | 4-(N,N-dimethylamino)pyridine | 4.3 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | glyceryl 3,7,11,15-tetramethyl-2-hexadecenoate | 6.0 g, yield: 96.7% | CC(=CC(=O)OCC(O)CO)CCCC(CCCC(CCCC(C)C)C)C | C23H44O4
